US05001125
A mixture of 9 parts of N-methyl-N-(3-methylphenyl)-1-(phenylmethyl)-4-piperidinamine dihydrochloride hemihydrate and 200 parts of methanol was hydrogenated at normal pressure and at room temperature with 2 parts of palladium-on-charcoal catalyst 10%. After the calculated amount of hydrogen was taken up, the catalyst was filtered off over Hyflo and the filtrate was evaporated. The residue was converted into the hydrochloride salt in 2-propanol. The salt was filtered off and dried, yielding 1.5 parts (60.9%) of N-methyl-N-(3-methylphenyl)-4-piperidinamine dihydrochloride monohydrate; mp. 209.1° C. (intermediate 97).

reactant | N-methyl-N-(3-methylphenyl)-1-(phenylmethyl)-4-piperidinamine dihydrochloride hemihydrate | O.Cl.Cl.CN(C1CCN(CC1)CC1=CC=CC=C1)C1=CC(=CC=C1)C.CN(C1CCN(CC1)CC1=CC=CC=C1)C1=CC(=CC=C1)C.Cl.Cl
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | [Pd] | Pd
solvent | methanol | CO | CH4O
product | N-methyl-N-(3-methylphenyl)-4-piperidinamine dihydrochloride monohydrate | 60.9% | O.Cl.Cl.CN(C1CCNCC1)C1=CC(=CC=C1)C | InChI=1S/C13H20N2.2ClH.H2O/c1-11-4-3-5-13(10-11)15(2)12-6-8-14-9-7-12;;;/h3-5,10,12,14H,6-9H2,1-2H3;2*1H;1H2
